### ISSUE TITLE
`grind` fails to prove conjunction of two things it can prove

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#12581]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

See the following snippet:

```lean
example {a b c d : Int} (f : Int → Nat → Int) (h₁ : a = 0) (h₁' : ∀ k, 0 ≤ f c k) (h₂ : b = 0) (h₂' : ∀ k, 0 ≤ f d k) :
    a + b = 0 := by
  grind -- works

example {a b c d : Int} (f : Int → Nat → Int) (h₁ : a = 0) (h₁' : ∀ k, 0 ≤ f c k) (h₂ : b = 0) (h₂' : ∀ k, 0 ≤ f d k) :
    ∀ k, 0 ≤ f c k + f d k := by
  grind -- works

example {a b c d : Int} (f : Int → Nat → Int) (h₁ : a = 0) (h₁' : ∀ k, 0 ≤ f c k) (h₂ : b = 0) (h₂' : ∀ k, 0 ≤ f d k) :
    a + b = 0 ∧ ∀ k, 0 ≤ f c k + f d k := by
  rw [h₁]
  grind -- works

example {a b c d : Int} (f : Int → Nat → Int) (h₁ : a = 0) (h₁' : ∀ k, 0 ≤ f c k) (h₂ : b = 0) (h₂' : ∀ k, 0 ≤ f d k) :
    a + b = 0 ∧ ∀ k, 0 ≤ f c k + f d k := by
  grind -- fails
```

The diagnostics don't show any reached thresholds.

**Expected behavior:** `grind` solves last goal

**Actual behavior:** `grind` fails

### Versions

`4.28.0` and `4.30.0-nightly-2026-02-18` on live.lean-lang.org

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by TwoFX** [comment]
Claude suggests the following one-line fix, which does fix the issue, but naturally I have no idea whether it's a good fix.
```diff
diff --git a/src/Lean/Meta/Tactic/Grind/Finish.lean b/src/Lean/Meta/Tactic/Grind/Finish.lean
index 6bae01e1c2..c3006db620 100644
--- a/src/Lean/Meta/Tactic/Grind/Finish.lean
+++ b/src/Lean/Meta/Tactic/Grind/Finish.lean
@@ -14,7 +14,7 @@ public abbrev maxIterationsDefault := 10000 -- **TODO**: Add option
 
 public def mkFinish (maxIterations : Nat := maxIterationsDefault) : IO Action := do
   let solvers ← Solvers.mkAction
-  let step : Action := solvers <|> instantiate <|> splitNext <|> mbtc
+  let step : Action := (assertNext >> assertAll) <|> solvers <|> instantiate <|> splitNext <|> mbtc
   return checkTactic (warnOnly := true) >> intros 0 >> assertAll >> step.loop maxIterations
 
 end Lean.Meta.Grind.Action
```
